US05747236
8. Preparation of methyl 2-methyl-2-(1-methyl-3-indolyl)acetate
To a solution of lithium diisopropyl amide, LDA, (5.5 millimole) in 10 mL of dry tetrahydrofuran at -78° C. was added dropwise a solution of methyl 2-(1-methyl-3-indolyl)acetate (1.02 g) in 3 mL of dry tetrahydrofuran. This mixture was stirred for one hour, then 1.42 g of methyl iodide was added and the mixture was warmed to room temperature and stirred for an additional 30 minutes. The mixture was poured into a solution of aqueous saturated ammonium chloride and then extracted with diethyl ether. The ether extract was dried over magnesium sulfate and concentrated to an oil by evaporation. The residue was subjected to silica gel chromatography using a developing solution of hexanes/ethyl acetate (6:1 by volume) to give 1.04 g of the product.

reactant | lithium diisopropyl amide | C(C)(C)[N-]C(C)C.[Li+]
reactant | LDA | 5.5 millimole | [Li+].CC(C)[N-]C(C)C
reactant | methyl 2-(1-methyl-3-indolyl)acetate | 1.02 g | CN1C=C(C2=CC=CC=C12)CC(=O)OC | C12H13NO2
reactant | methyl iodide | 1.42 g | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | methyl 2-methyl-2-(1-methyl-3-indolyl)acetate | 1.04 g | CC(C(=O)OC)C1=CN(C2=CC=CC=C12)C | C13H15NO2
